US05710198
A solution of 10.0 g (43.5 mmol) of acridine chloromethylate [A. Kaufmann et al, Ber. Dt. Chem. Ges. 42, 1999 (1909)]in 100 ml of water is covered with a layer of 200 ml of diethyl ether, and a solution of 3.13 g (48.0 mmol) of potassium cyanide in 20 ml of water is added. After about 30 minutes, the ether phase is separated off, the mixture is concentrated to 50 ml on a vacuum rotary evaporator and the product which has precipitated is filtered off. Crystallization of the crude product from ethanol gives 7.10 g (75%) of 9-cyano-9,10-dihydro-10-methyl-acridine, melting point 141°-143° C. (compound (106), Table 1).

reactant | acridine | 43.5 mmol, 10.0 g | C1=CC=CC2=NC3=CC=CC=C3C=C12 | C13H9N
reactant | diethyl ether | 200 ml | C(C)OCC | C4H10O
reactant | potassium cyanide | 48.0 mmol, 3.13 g | [C-]#N.[K+]
solvent | water | 20 ml | O | H2O
product | 9-cyano-9,10-dihydro-10-methyl-acridine | 7.10 g, 75% | C(#N)C1C2=CC=CC=C2N(C=2C=CC=CC12)C | C15H12N2
